*Edited into single amp configuration, 2026/04/14
*********************************************************************
* (C)Copyright 2022 Nisshinbo Micro Device Inc. Allright reserved.
*********************************************************************
*  Date                 : 11/29/2022
*  Model No.            : NJM5532x_v0301
*  Simulator            : PSpice17.2
*  TNOM                 : 25 degree(with temperature model)
**********************************************************************
*$
*.SUBCKT NJM5532x OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
*X1 +IN1 -IN1 V+ V- OUT1 njm5532_s
*X2 +IN2 -IN2 V+ V- OUT2 njm5532_s
*.ENDS NJM5532x
*$
* connections:    			  non-inverting input
*                 			  | inverting input
*                   		  | | positive power supply
*                 			  | | | negative power supply
*                 			  | | | | output
*                 			  | | | | |
*                 			  | | | | |
.subckt NJM5532x_v0301_single 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
C3 11 99 {C3}
R3 99 12 {R3}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 20 10 DMOD2
VTL 20 4 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
Q1 11 2 13 NPN1
Q2 12 1 14 NPN2
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 3 21 {VRC}
VRC2 3 22 {VRC}
RE2 14 10 {RE1}
RE1 13 10 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}
.MODEL DMOD1 D(T_MEASURED = 25 IS = 2.23E-14)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL NPN1 NPN(TREF = 25 IS = 8.00E-16 BF = 969)
.MODEL NPN2 NPN(TREF = 25 IS = {ISM2} BF = {BFM2})
.PARAM
+ C1   = 2.0E-10
+ C2   = 4.6E-11
+ C3   = 1.0E-9
+ R3   = 100
+ CE   = 0.00E+00
+ GCM  = 1.18E-07
+ GA   = 1.18E-02
+ GB   = 1.37
+ GC   = 2.68E+04
+ ITL  = 0.4E-03
+ RC1  = 84.91
+ RC   = 3.73E-05
+ RE1  = 50.63
+ RE   = 1.33E+05
+ RO1  = 0.3
+ RO2  = 75
+ RP   = 3.5E+04
+ VC   = 2.92
+ VE   = 2.92
+ VTL  = 1.96E+00
+ VRC  = 2.45
+ ICE  = 3.25E-3
+ BFM2 = 1005
+ ISM2 = 7.84224795E-16
.ends NJM5532x_v0301_single
*$
